US07091220B2
[(3,4-Dimethoxy-phenyl)-(2-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-methyl-1H-indole and (3,4-dimethoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 3,4-dimethoxy-benzaldehyde and dimethylamine.

reactant | 2-methyl-1H-indole | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | (3,4-dimethoxy-benzylidene)-dimethylammonium chloride | [Cl-].COC=1C=C(C=[N+](C)C)C=CC1OC
reactant | 3,4-dimethoxy-benzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | dimethylamine | CNC | C2H7N
product | [(3,4-Dimethoxy-phenyl)-(2-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine | COC=1C=C(C=CC1OC)C(C1=C(NC2=CC=CC=C12)C)N(C)C | C20H24N2O2
